US07384952B2
Thionyl chloride (8.7 mL) is added dropwise to methanol (90 mL) at −30° C. under argon gas atmosphere over a period of 15 minutes and a mixture is stirred at −20° C. for 30 minutes. To the mixture is added 3-amino-4-methoxybenzoic acid (5.0 g) and the solution is stirred at the same temperature for 15 minutes and at room temperature for 3 days. The reaction mixture is concentrated in vacuo and the resultant crystals are washed with methanol/ether to give methyl 3-amino-4-methoxybenzoate hydrochloride (6.25 g, yield; 96%) as colorless crystals. M.p. 213-215° C., MS (APCI) m/z: 182 [M+H]+

reactant | Thionyl chloride | 8.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-amino-4-methoxybenzoic acid | 5.0 g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
reactant | methanol | 90 mL | CO | CH4O
product | methyl 3-amino-4-methoxybenzoate hydrochloride | 6.25 g, yield; 96% | Cl.NC=1C=C(C(=O)OC)C=CC1OC | InChI=1S/C9H11NO3.ClH/c1-12-8-4-3-6(5-7(8)10)9(11)13-2;/h3-5H,10H2,1-2H3;1H
